data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_181654_0,[C:1]([C:4]([C:6]1([O:8][H:9])[C:2]([H:12])([H:13])[N:5]([H:10])[C:3]1([H:14])[H:15])([H:16])[H:17])(=[O:7])[H:11]>>[C:1]1([O:7][H:9])([H:11])[C:2]([H:12])([H:13])[N:5]([H:10])[C:3]([H:14])([H:15])[C:6](=[O:8])[C:4]1([H:16])[H:17],47.10391499999531
MR_169893_1,[C:1]1([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])[C:2]([H:11])([H:12])[O:7]/[C:6](=[N:8]\[H:10])[N:5]1[H:9]>>[C:1]([C:2]([O:7]/[C:6]([N:5]([H:9])[H:17])=[N:8]\[H:10])([H:11])[H:12])([C:3]([H:13])([H:15])[H:16])=[C:4]([H:14])[H:18],70.65524499999455
MR_40062_0,[C:1](/[C:6](=[C:5]([C:2](\[N:4]([H:10])[H:11])=[N:7]\[N:3]([H:8])[H:9])/[H:12])[H:13])([H:14])([H:15])[H:16]>>[C:1]([C:6]1([H:13])[C:5]([H:12])=[C:2]([N:4]([H:10])[H:11])[N:7]1[N:3]([H:8])[H:9])([H:14])([H:15])[H:16],45.61234749998022
MR_609648_1,[C:1]1([N:5]([H:12])[H:13])([O:8][H:10])[C:4]([H:18])([H:19])[C:2]([N:6]([H:14])[H:15])([O:9][H:11])[C:3]([H:16])([H:17])[O:7]1>>[C:1]([C:4]([C:2]([C:3]([O:7][H:10])([H:16])[H:17])([N:6]([H:14])[H:15])[O:9][H:11])([H:18])[H:19])([N:5]([H:12])[H:13])=[O:8],23.87825750002989
MR_223978_1,[C:1]1([H:11])([H:12])[C:3](=[O:8])[N:6](/[C:5](=[N:2]/[H:9])[H:13])/[C:4]1=[N:7]\[H:10]>>[C:1]1([H:11])([H:12])[C:3](=[O:8])[N:2]([H:9])[C:5]([H:13])=[N:6]/[C:4]1=[N:7]\[H:10],48.92052749997447
MR_15563_0,[C:1]([N:4]([C:2]([H:9])([H:10])[H:11])[C:5]([C:3]([H:13])([H:14])[H:15])=[C:6]([H:16])[H:17])([H:7])([H:8])[H:12]>>[C:1]([N:4]([C:3]([H:13])([H:14])[H:15])[C:5]([C:2]([H:9])([H:10])[H:11])=[C:6]([H:16])[H:17])([H:7])([H:8])[H:12],55.44087999999135
MR_537804_2,[C:1]([C@:2]1([C:5]([N:3]([H:8])[H:9])([H:11])[H:12])/[C:4](=[N:7]\[H:10])[O:6]1)([H:13])([H:14])[H:15]>>[C:1](/[C:2](=[C:5](\[N:3]([H:8])[H:9])[H:12])[O:6]/[C:4](=[N:7]\[H:10])[H:11])([H:13])([H:14])[H:15],40.825149999974855
MR_486437_1,[C:1]([C:2]([H:18])([H:19])[H:20])([C:3]([H:17])([H:21])[H:22])([N:4]([N:6]([H:12])[H:13])/[C:8](=[C:5](/[N:7]([H:14])[H:15])[O:9][H:10])[H:16])[H:11]>>[C:1]([C:2]([H:18])([H:19])[H:20])([C:3]([H:17])([H:21])[H:22])([C@@:8]1([H:16])[N:4]([N:6]([H:12])[H:13])[C@@:5]1([N:7]([H:14])[H:15])[O:9][H:10])[H:11],71.15473500001755
MR_339284_0,[C:1]([C:2]([H:15])([H:16])[H:17])([C:4]([C:3]([O:9][H:11])=[O:10])=[C:7]([H:18])[H:19])([N:5]([H:12])[H:13])[C:6](=[C:8]([H:20])[H:21])[H:14]>>[C:1](\[C:2]([H:15])([H:16])[H:17])([C:4]([C:3]([C:6](=[C:8]([H:20])[H:21])[H:14])([O:9][H:11])[O:10][H:13])=[C:7]([H:18])[H:19])=[N:5]\[H:12],63.770314999970736
MR_102319_0,[C:1](/[C:6](=[C:4](/[C:2]([H:13])([H:14])[H:15])[C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[H:12])([O:8][H:9])([H:10])[H:11]>>[C:1](=[C:6]([C:4]([C:2]([H:13])([H:14])[H:15])([C:5]([C:3]([H:16])([H:17])[H:18])=[C:7]([H:19])[H:20])[O:8][H:9])[H:12])([H:10])[H:11],58.95550749999941
MR_47912_0,[C:1](/[C:4](=[C:2](/[C:3](=[O:6])[H:8])[O:5][H:7])[H:9])([H:10])([H:11])[H:12]>>[C:1]([C:4]1([H:9])[C:2]([O:5][H:7])=[C:3]([H:8])[O:6]1)([H:10])([H:11])[H:12],63.51429500001075
MR_492061_0,[N:1](/[C:2]([N:5]([H:13])[H:14])=[N:7]/[N:4]([H:11])[H:12])([N:3]([H:9])[H:10])[O:6][H:8]>>[N:1](=[C:2](\[N:5]([H:13])[H:14])[N:7]([N:4]([H:11])[H:12])[O:6][H:8])\[N:3]([H:9])[H:10],60.18101500000853
MR_283434_1,[C:1](\[C:2]([H:15])([H:16])[H:17])(=[C:7](\[C:5]1([N:6]([H:12])[H:13])[C:4]([C:3]([H:18])([H:19])[H:20])([O:8][H:10])[O:9]1)[H:14])[H:11]>>[C:1]([C:2]([H:15])([H:16])[H:17])([C:3]([H:18])([H:19])[H:20])(/[C:7](=[C:5](\[C:4]([O:8][H:10])=[O:9])[N:6]([H:12])[H:13])[H:14])[H:11],61.41154250000497
MR_213130_0,[C:1](=[C:2]([N:4]([H:9])[H:10])[N:6]([H:11])[H:14])([N:3]([H:7])[H:8])[N:5]([H:12])[H:13]>>[C:1](\[C:2]([N:4]([H:9])[H:10])([N:6]([H:11])[H:14])[H:13])([N:3]([H:7])[H:8])=[N:5]\[H:12],55.64042499998692
MR_631585_1,[C:1]([C:2]([H:12])([H:13])[H:14])([C:5]([C:3]([H:15])([H:16])[H:17])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]\[H:11])[O:9][H:10])=[O:7]>>[C:1]1([C:2]([H:12])([H:13])[H:14])([O:7][H:10])[C:5]([C:3]([H:15])([H:16])[H:17])(/[C:6]([C:4]([H:18])([H:19])[H:20])=[N:8]\[H:11])[O:9]1,55.33043999998483
MR_534938_0,[C:1]([C:2]([C:6]([C:4]([H:20])([H:21])[H:22])=[O:9])([H:15])[H:16])([N:5]([C:3]([H:17])([H:18])[H:19])[H:10])([N:7]([H:11])[H:12])[N:8]([H:13])[H:14]>>[C:1](\[C:2]([C:6]([C:4]([H:20])([H:21])[H:22])([N:5]([C:3]([H:17])([H:18])[H:19])[H:10])[O:9][H:14])([H:15])[H:16])([N:7]([H:11])[H:12])=[N:8]/[H:13],32.50136250001688
MR_444018_1,[C:1]([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])([C:8]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[C:7]([H:25])([H:26])[H:27])=[O:10])[N:9]([H:11])[H:12]>>[C:1]([C:2]([C:5]([H:19])([H:20])[H:21])([C:6]([H:22])([H:23])[H:24])[C:8]([C:7]([H:25])([H:26])[H:27])=[O:10])([C:3]([H:13])([H:15])[H:16])([C:4]([H:14])([H:17])[H:18])[N:9]([H:11])[H:12],69.946170000037
MR_84086_2,[C:1](/[N:6]=[N:5]/[N:2]([N:3]([H:7])[H:8])[N:4]([H:9])[H:10])([H:11])([H:12])[H:13]>>[C:1]([N:6]([N:4]([H:9])[H:10])/[N:5]=[N:2]\[N:3]([H:7])[H:8])([H:11])([H:12])[H:13],54.56551750002561
